US07977364B2
A solution of phenylmethanethiol (2.35 ml, 20 mmoles) in THF (10 ml) was slowly added to a mixture of potassium tert-butoxide (2.24 g, 20 mmoles) in THF (80 ml) under N2 at room temperature. The mixture was stirred for 15 min at room temperature and cyclohexyl (4-benzyloxy-2-fluorophenyl)methanone (6.5 g, 20 mmoles) in THF (10 ml) was slowly added. The mixture was heated for 2 h at 50° C. and poured into an aqueous solution of NH4Cl, extracted with ethyl acetate, dried over Na2SO4 and concentrated under vacuum. The crude product was purified by flash chromatography (Heptane/AcOEt 90/10 with 0.1% TEA) to give cyclohexyl (4-benzyloxy-2-benzylthiophenyl)methanone (8.3 g, 100%).

reactant | phenylmethanethiol | 20 mmoles, 2.35 ml | C1(=CC=CC=C1)CS | C7H8S
reactant | potassium tert-butoxide | 20 mmoles, 2.24 g | CC(C)([O-])C.[K+]
reactant | cyclohexyl (4-benzyloxy-2-fluorophenyl)methanone | 20 mmoles, 6.5 g | C1(CCCCC1)C(=O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)F | C20H21FO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | cyclohexyl (4-benzyloxy-2-benzylthiophenyl)methanone | 8.3 g, 100% | C1(CCCCC1)C(=O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)SCC1=CC=CC=C1 | C27H28O2S
